US07220759B2
In the same manner as in Example 10b (a) and using (3R,5S)-5-hydroxymethylpyrrolidin-3-ol described in Collect. Czech. Chem. Commun., vol. 61, pp. S234–S237 (1996), 3-[(2S,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]propionitrile is obtained. In the same manner as in Example 1b (e) and using 3-[(2S,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]propionitrile and N,N-diethyl-2,3-dimethylbenzamide, 3-{2-[(2S,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]ethyl}-5-methyl-2H-isoquinolin-1-one is obtained.

reactant | 3-[(2S,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]propionitrile | O[C@@H]1C[C@H](N(C1)CCC#N)CO | C8H14N2O2
reactant | N,N-diethyl-2,3-dimethylbenzamide | C(C)N(C(C1=C(C(=CC=C1)C)C)=O)CC | C13H19NO
product | 3-{2-[(2S,4R)-4-hydroxy-2-hydroxymethylpyrrolidin-1-yl]ethyl}-5-methyl-2H-isoquinolin-1-one | O[C@@H]1C[C@H](N(C1)CCC=1NC(C2=CC=CC(=C2C1)C)=O)CO | C17H22N2O3
